2119-09-17 05:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt was reported to be somnolent on the floor and had a ABG w/ pCO2 of
   86 and was transferred back to the MICU.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2119-9-16**] 08:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-9-17**] 05:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.2
   HR: 89 (77 - 113) bpm
   BP: 128/38(61) {95/29(45) - 181/77(83)} mmHg
   RR: 31 (9 - 41) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,500 mL
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,175 mL
                                                                    255 mL
   Urine:
                                                                  1,175 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    325 mL
                                                                   -255 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.31/81/61/42/10
   PaO2 / FiO2: 174
   Physical Examination
   GEN: Elderly, Spanish-Speaking woman somnolent, but awakes easily,
   alert, oriented to place, month, and year with promting, though appears
   confused from moment to moment.
   [**Name2 (NI) **]:  EOMI, MMM, face symmetric
   Neck: Supple
   Resp:  crackles at bases b/l up
 back, no audible wheeze, moderately
   tachypnic at 20-30, with some excessory muscle use but able to speak
   fluidly throughout.
   Card: S1S2, borderline tachy with III/VI systolic murmur loudest at RSB
   and radiates to carotids R> L
   Abd: Obese, Soft, NT, ND, BS+
   Extr:  Mild bilateral non-pitting edema b/l
   Neuro:  A+O x3 in early am, but only x1 when reassess on rounds.
   Strength 5/5 bil, upper and lower.
   Labs / Radiology
   209 K/uL
   6.4 g/dL
   171 mg/dL
   0.7 mg/dL
   42 mEq/L
   5.5 mEq/L
   26 mg/dL
   98 mEq/L
   141 mEq/L
   23.4 %
   9.4 K/uL
        [image002.jpg]
                             [**2119-9-16**]  09:21 AM
                             [**2119-9-16**]  07:04 PM
                             [**2119-9-17**]  12:39 AM
   WBC
   11.4
   9.4
   Hct
   22.8
   23.4
   Plt
   187
   209
   Cr
   0.6
   0.7
   TropT
   <0.01
   TCO2
   43
   Glucose
   138
   171
   Other labs: PT / PTT / INR:13.6/31.5/1.2, CK / CKMB /
   Troponin-T:871/5/<0.01, Differential-Neuts:84.4 %, Lymph:9.5 %,
   Mono:6.0 %, Eos:0.1 %, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   CXR [**2119-9-17**]: improved RLL opacity from [**2119-9-16**], L diaphragmatic border
   still obscured, ? retrocardiac density
   - Radiology dict: unchanged bibasilar consolidations, unchanged left
   pleural effusion. No overt CHF.
   CXR [**2119-9-15**]: IMPRESSION: Left lower lobe opacity concerning for
   pneumonia.
   Assessment and Plan
   83yo Spanish speaking woman with h/o COPD, diastolic heart failure, and
   aortic stenosis admitted with COPD exacerbation in the setting of
   probable pneumonia.
   # COPD exacerbation:
   Appears to have been triggered by nosocomial pneumonia.  Has long
   history of hypercarbia with chronic metabolic compensation, and her
   elevated CO2 most likely contributed to her poor mental status on the
   floor.  Also suspect that volume overload may be contributing to poor
   respiratory status given history of diastolic heart failure and aortic
   stenosis; she has become increasingly crackly on exam over the course
   of the day (her lasix was held yesterday on the floor). ABGs show pt
   with significant CO2 retention, and respiratory acidosis. Likely
   baseline, but do not have previous data at [**Hospital1 54**].
   - transfered to MICU for treatment with biPAP, though pt refused to
   wear BiPAP mask. Pt claims to be at baseline breathing status and
   comfort.
   - continue treatment of nosocomial pneumonia with vanc/zosyn/levo
   - continue prednisone at 60mg daily, will need taper on floor or when
   d/c
   - continue nebs
   - f/u sputum Cx
   - supplemental O2 to maintain oxygen sat's in low 90s.
   - Pt likely CO2 retainer and acidotic at baseline.
   - Important to determine documentation of baseline pulmonary function
   and pCO2.
   # Aortic stenosis:
   [**Month (only) 60**] be contributing to hypoxia on admission.
   - check TTE to assess severity and likely degree of preload/rate
   control dependence,  to guide diuresis and fluid management
   # Acut on Chronic Diastolic CHF:  Currently mildly volume overloaded on
   exam. Trop (-) x2. Not currently on diuretic but was previously
   discharged on Lasix 20mg PO.  Diuresed well to 10mg IV lasix yesterday.
   - lasix 10mg IV x 1 again, and monitor PULM exam, O2 sats, and UOP
   - Continue Lisinopril
   - Continue B-blocker
   # Positive UA: 3-5 WBCs, + Nitrites.
   - resend urine Cx,
   - covered for UTI by Abx for PNA
   # Seizure Hx: Cont Phenytoin
   # DM: Stable
   - Cont ISS
   # FEN: Kayexelate for hyperkalemia; repeat K+ tonight; Replete lytes
   PRN/Cardiac Heart Healthy and diabetic diet
   # Access: PIV
   # Full Code
   # Disp:  ICU for now, possibly c/o to floor this afternoon if baseline
   pCO2 can be obtained.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2119-9-17**] 01:16 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2119-09-18 04:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   BNP added on: 1486
   Repeat K 4.5. HCO3 42, stable
   Did not have time to obtain OSH records
 CALLED OUT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2119-9-17**] 08:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2119-9-18**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-9-18**] 04:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.5
   HR: 74 (67 - 92) bpm
   BP: 117/34(55) {114/30(50) - 145/58(72)} mmHg
   RR: 28 (18 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,030 mL
                                                                    124 mL
   PO:
                                                                    460 mL
             TF:
   IVF:
                                                                    570 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                  1,267 mL
                                                                    180 mL
   Urine:
                                                                  1,267 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -237 mL
                                                                    -56 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 3L
   SpO2: 100%
   ABG: ///45/
   Physical Examination
   GEN: Elderly, Spanish-Speaking woman awake, alert, oriented to place,
   month, and year with prompting, though appears confused periodically.
   Friendly, asking for her morning coffee.
   HEENT:  EOMI, MMM, face symmetric, Neck: supple, radiated murmur from
   chest
   Resp:  Pt breathing with some use of accessory muscles, but appears
   comfortable. States she
s at her baseline, and feel normal.  Mild
   basilar rales and course breath sounds, but no wheezing or rhonchi.
   Card: S1S2, borderline tachy with III/VI systolic murmur loudest at RSB
   and radiates to carotids R> L
   Abd: Obese, Soft, NT, ND, BS+
   Extr:  Mild bilateral non-pitting edema b/l
   Neuro:  A+O x2-3, Strength 5/5 right upper, [**1-17**] left upper and [**3-18**] bil
   lower. Slight left sided facial asymmetry on smile.
   Labs / Radiology
   245 K/uL
   7.2 g/dL
   83 mg/dL
   0.8 mg/dL
   45 mEq/L
   4.5 mEq/L
   29 mg/dL
   96 mEq/L
   142 mEq/L
   27.5 %
   7.4 K/uL
        [image002.jpg]
                             [**2119-9-16**]  09:21 AM
                             [**2119-9-16**]  07:04 PM
                             [**2119-9-17**]  12:39 AM
                             [**2119-9-17**]  06:50 PM
                             [**2119-9-18**]  02:34 AM
   WBC
   11.4
   9.4
   7.4
   Hct
   22.8
   23.4
   27.5
   Plt
   187
   209
   245
   Cr
   0.6
   0.7
   0.8
   0.8
   TropT
   <0.01
   TCO2
   43
   Glucose
   138
   171
   173
   83
   Other labs: PT / PTT / INR:12.7/26.1/1.1, CK / CKMB /
   Troponin-T:871/5/<0.01, Differential-Neuts:84.4 %, Lymph:9.5 %,
   Mono:6.0 %, Eos:0.1 %, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:4.8 mg/dL
   CXR [**2119-9-18**]: No sig change.
   CXR [**2119-9-17**]: Bibasilar consolidations worse on the left side are
   unchanged. Small left pleural effusion is stable. Moderate cardiomegaly
   is unchanged. No overt CHF.
   Assessment and Plan
   83yo Spanish speaking woman with h/o COPD, diastolic heart failure, and
   aortic stenosis admitted with COPD exacerbation in the setting of
   probable pneumonia.
   # COPD exacerbation:
   Appears to have been triggered by nosocomial pneumonia.  Has long
   history of hypercarbia with chronic metabolic compensation, and her
   elevated CO2 most likely contributed to her poor mental status on the
   floor.  Also suspect that volume overload may be contributing to poor
   respiratory status given history of diastolic heart failure and aortic
   stenosis; she has become increasingly crackly on exam over the course
   of the day (her lasix was held yesterday on the floor). ABGs show pt
   with significant CO2 retention, and respiratory acidosis. Likely
   baseline, but do not have previous data at [**Hospital1 54**]. Pt was transfered to
   MICU for treatment with biPAP, but refused to wear BiPAP mask. Pt
   claims to be at baseline breathing status and comfort level.
   - continue treatment of nosocomial pneumonia with vanc/zosyn/levo
   - continue prednisone at 60mg daily, will need taper on floor or when
   d/c
   - continue nebs
   - supplemental O2 to maintain oxygen sat's in low 90s. Pt on 3L O2 at
   home.
   - Pt likely CO2 retainer and acidotic at baseline, will attempt to find
   OSH hx of baseline pulmonary function and pCO2.
   # Aortic stenosis:
   [**Month (only) 60**] be contributing to hypoxia on admission.
   - check TTE to assess severity and likely degree of preload/rate
   control dependence,  to guide diuresis and fluid management
   # Acute on Chronic Diastolic CHF:  Currently mildly volume overloaded
   on exam. Trop (-) x2. Not currently on diuretic but was previously
   discharged on Lasix 20mg PO.  Diuresed well to 10mg IV lasix for last 2
   days.
   - Continue Lisinopril
   - Continue B-blocker
   # Positive UA: 3-5 WBCs, + Nitrites, w/ repeat UA negative for
   infection, but pt well covered by PNA regimen regardless
   # Seizure Hx: Cont Phenytoin
   # DM: Stable
   - Cont ISS
   # FEN: Hyperkalemia yesterday of 5.5, treated w/ kayexalate 30mg PO x
   2, with improvement to 4.5 today. Continue to follow lytes. PO diet
   Cardiac Heart Healthy and diabetic diet
   # Access: PIV
   # Full Code
   # Disp:  c/o to floor this am
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2119-9-17**] 01:16 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2119-09-18 11:25:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Stable resp status
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2119-9-18**] 08:09 AM
   Vancomycin - [**2119-9-18**] 09:09 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-9-18**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.9
C (96.6
   HR: 72 (67 - 96) bpm
   BP: 111/32(50) {111/29(50) - 145/61(72)} mmHg
   RR: 26 (17 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,030 mL
                                                                    807 mL
   PO:
                                                                    460 mL
                                                                    350 mL
   TF:
   IVF:
                                                                    570 mL
                                                                    457 mL
   Blood products:
   Total out:
                                                                  1,267 mL
                                                                    350 mL
   Urine:
                                                                  1,267 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -237 mL
                                                                    457 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///45/
   Physical Examination
   Gen sitting in chair conversant NAD
   HEENT: o/p clear
   CV: RR
   Chest: good air movement faint end exp wheeze
   ABd: soft NT + BS
   Ext trace edema
   Labs / Radiology
   7.2 g/dL
   245 K/uL
   83 mg/dL
   0.8 mg/dL
   45 mEq/L
   4.5 mEq/L
   29 mg/dL
   96 mEq/L
   142 mEq/L
   27.5 %
   7.4 K/uL
        [image002.jpg]
                             [**2119-9-16**]  09:21 AM
                             [**2119-9-16**]  07:04 PM
                             [**2119-9-17**]  12:39 AM
                             [**2119-9-17**]  06:50 PM
                             [**2119-9-18**]  02:34 AM
   WBC
   11.4
   9.4
   7.4
   Hct
   22.8
   23.4
   27.5
   Plt
   187
   209
   245
   Cr
   0.6
   0.7
   0.8
   0.8
   TropT
   <0.01
   TCO2
   43
   Glucose
   138
   171
   173
   83
   Other labs: PT / PTT / INR:12.7/26.1/1.1, CK / CKMB /
   Troponin-T:871/5/<0.01, Differential-Neuts:84.4 %, Lymph:9.5 %,
   Mono:6.0 %, Eos:0.1 %, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 AORTIC STENOSIS
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS
 .H/O DIABETES MELLITUS (DM), TYPE II
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
   COPD exacerbation- doing much better, wean 02 to maintain sats 92%, po
   Prednsione 60 and taper over 2 weeks, Rx PNA for nosocomial Vanco.
   Zosyn, Levo- if remains afebrile and stable on floor can complete
   course of PO ABX
   AS: in for Echo- stable hemodynamics
   Hyperkalemia: etiology unclear- med related- trend and watch UOP and Cr
   ICU Care
   Nutrition: po diet cardiac diabetic
   Glycemic Control:
   Lines:
   20 Gauge - [**2119-9-18**] 06:49 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer:ppi
   Communication:  with pt
   [**Name (NI) 66**] status: Full
   Disposition :call out